US09126999B2
Preparation 4: 1-(1,3-dimethyl-1H-pyrazol-4-yl)ethanone
3-((1-methyl-2-(propan-2-ylidene)hydrazinyl)methylene)pentane-2,4-dione (Preparation 3, 9.1 g) was dissolved in Ethanol (20 mL) and treated with 1M Hydrogen chloride in Water (20 mL). the reaction solution was stirred at room temperature for 15 minutes. The reaction solution was then concentrated under vacuum with a rotavap to approximately 20 mL total volume. The reaction solution was then treated with saturated aqueous sodium bicarbonate (45 mL), and extracted with methylene chloride (4×50 mL). The combined organic extracts were dried over sodium sulfate, filtered and concentrated in vacuo afford the title compound as a light orange solid. (6.2 g, 97%).

reactant | 3-((1-methyl-2-(propan-2-ylidene)hydrazinyl)methylene)pentane-2,4-dione | 9.1 g | CN(N=C(C)C)C=C(C(C)=O)C(C)=O | C10H16N2O2
reactant | Hydrogen chloride | 1M | Cl | ClH
solvent | Ethanol | 20 mL | C(C)O | C2H6O
solvent | Water | 20 mL | O | H2O
product | 1-(1,3-dimethyl-1H-pyrazol-4-yl)ethanone | CN1N=C(C(=C1)C(C)=O)C | C7H10N2O
